### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Gamma/Digamma): iterated recurrence, harmonic-number values, and duplication for digamma

### PR DESCRIPTION
**Pull request by owenpkent**
This PR adds standard identities for `Complex.digamma` to `Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean`:

- the iterated recurrence `digamma (s + n) = digamma s + ∑ k ∈ Finset.range n, (s + k)⁻¹` (`digamma_apply_add_nat`),
- the value at positive integers in terms of harmonic numbers, `digamma (n + 1) = harmonic n - eulerMascheroniConstant` (`digamma_nat_add_one`, added at review request),
- the duplication (doubling) formula `digamma (2 * s) = (1 / 2) * (digamma s + digamma (s + 1 / 2)) + log 2` (`digamma_two_mul`),
- a public helper `HasDerivAt.logDeriv_Gamma` (the logarithmic derivative of `Gamma ∘ g`), used twice by the duplication proof.

These are the natural digamma companions to results already in Mathlib: the single-step recurrence `Complex.digamma_apply_add_one` (the iterated form is its finite-induction closure) and the Legendre duplication formula `Complex.Gamma_mul_Gamma_add_half` (the digamma duplication is its logarithmic derivative).

Note: this PR originally also contained the digamma reflection formula; that was superseded by `Complex.digamma_one_sub` (#42349, now merged), whose proof is better, and the corresponding theorem has been dropped here in the master merge. The remaining results build cleanly on top of it.

The proofs use only existing Mathlib API. `#print axioms` for each new theorem is exactly `[propext, Classical.choice, Quot.sound]`.

---

**AI use disclosure** (per Mathlib's contribution guidelines): these identities were formalized in a personal research project with the help of an AI coding agent (Claude Code). The agent assisted in developing the original proofs and in porting them onto current Mathlib master. The underlying results are standard and the proofs use only existing Mathlib API. I have reviewed and understand the proofs, take responsibility for the content, and will respond to review in my own words.

### CODE REVIEW

**Comment by SnirBroshi** [comment]
> The underlying results are standard and each proof is short

This PR includes a proof which is 82 lines and another which is 63 lines; these are very long proofs.

**Comment by owenpkent** [comment]
Thanks for the review! I've made the changes:
- Moved the theorem to Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean so it
can use riemannZeta_one, and dropped the s != 1 hypothesis entirely (the
zero-iff corollary is hypothesis-free now too).
- Applied all three inline suggestions (natCast_arg + positivity, the
isPreconnected inlining, and hypotheses left of the colon in the have
statements).
- Retitled the PR to match the new location, and merged master to resolve a
conflict with #41205 which touched the same file.
-Owen

*This communication, along with any documents, files or attachments, is
intended only for the use of the addressee and may contain legally
privileged and confidential information. If you are not the intended
recipient, you are hereby notified that any dissemination, distribution or
copying of any information contained in or attached to this communication
is strictly prohibited. If you have received this message in error, please
notify the sender immediately and destroy the original communication and
its attachments without reading, printing or saving in any manner. *

**Comment by owenpkent** [comment]
sorry wrong message!
Fair point, those two proofs were too long. I've golfed them:
- digamma_reflection: 82 lines down to 23
- digamma_two_mul: 63 lines down to 31

-Owen

*This communication, along with any documents, files or attachments, is
intended only for the use of the addressee and may contain legally
privileged and confidential information. If you are not the intended
recipient, you are hereby notified that any dissemination, distribution or
copying of any information contained in or attached to this communication
is strictly prohibited. If you have received this message in error, please
notify the sender immediately and destroy the original communication and
its attachments without reading, printing or saving in any manner. *

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 1]
```diff
@@ -58,6 +64,89 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+  | succ n ih =>
+    have hsn (m : ℕ) : s + (n : ℂ) ≠ -(m : ℂ) := fun h ↦
+      hs (m + n) (by push_cast at h ⊢; linear_combination h)
+    rw [show s + ((n + 1 : ℕ) : ℂ) = (s + (n : ℂ)) + 1 by push_cast; ring,
+      digamma_apply_add_one _ hsn, ih, Finset.sum_range_succ]
+    ring
+
+/-- The logarithmic derivative of `Gamma ∘ g` at `s` is `deriv g s * digamma (g s)`.
+Auxiliary lemma used to prove the reflection and duplication formulas below. -/
+private lemma logDeriv_Gamma_comp {g : ℂ → ℂ} {a s : ℂ} (hg : HasDerivAt g a s)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: if you call this `HasDerivAt.logDeriv_Gamma`, then I think it's totally reasonable to be a `public` lemma.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 2]
```diff
@@ -58,6 +64,89 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+  rw [logDeriv_mul (f := Gamma) (g := fun z ↦ Gamma (1 - z)) s (Gamma_ne_zero hs₀)
+      (Gamma_ne_zero hs₁) (differentiableAt_Gamma s hs₀)
+      ((differentiableAt_Gamma _ hs₁).comp s (by fun_prop)),
+    logDeriv_Gamma_comp ((hasDerivAt_id' (x := s)).const_sub 1) hs₁,
+    logDeriv_div (f := fun _ ↦ (Real.pi : ℂ)) (g := fun z ↦ sin ((Real.pi : ℂ) * z)) s hπ hsin
+      (by fun_prop) (differentiableAt_sin.comp s (by fun_prop)),
+    logDeriv_const, Pi.zero_apply,
+    show (fun z : ℂ ↦ sin ((Real.pi : ℂ) * z)) = sin ∘ ((Real.pi : ℂ) * ·) from rfl,
+    logDeriv_comp differentiableAt_sin (by fun_prop), logDeriv_sin, deriv_const_mul_id,
+    ← digamma_def] at key
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: I would turn all this into a `calc` block to improve readability and maintainability.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 3]
```diff
@@ -58,6 +64,89 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+  rw [logDeriv_mul (f := Gamma) (g := fun z ↦ Gamma (z + 1 / 2)) s (Gamma_ne_zero hs)
+      (Gamma_ne_zero hsh) (differentiableAt_Gamma s hs)
+      ((differentiableAt_Gamma _ hsh).comp s (by fun_prop)),
+    logDeriv_Gamma_comp ((hasDerivAt_id' (x := s)).add_const (1 / 2)) hsh,
+    logDeriv_mul_const s _ hsqrt,
+    logDeriv_mul (f := fun z ↦ Gamma (2 * z)) (g := fun z ↦ (2 : ℂ) ^ (1 - 2 * z)) s
+      (Gamma_ne_zero h2s) hpow ((differentiableAt_Gamma _ h2s).comp s (by fun_prop))
+      hd2.differentiableAt,
+    logDeriv_Gamma_comp ((hasDerivAt_id' (x := s)).const_mul 2) h2s, hcpow,
+    ← digamma_def] at key
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: As before, I suggest a `calc` block for this

**Comment by owenpkent** [comment]
All three done: made it public as `HasDerivAt.logDeriv_Gamma` and converted both proofs to `calc` blocks. The Post-Build Step failure looks like the cache flake that hit several PRs that day; the build and both linters are green on the new head.

**Comment by owenpkent** [comment]
Thanks for the review, and sorry for the slow turnaround.

- All three comments were addressed in 1128e85: the auxiliary lemma is now public as `HasDerivAt.logDeriv_Gamma`, and both `digamma_reflection` and `digamma_two_mul` go through `calc` blocks.
- Merged current master to clear the conflict. `meromorphic_digamma` keeps its place right after `digamma_apply_add_one`, so this PR is still a pure append: 104 insertions, 0 deletions.
- One adaptation was needed on top of the merge. #42490 restated `logDeriv_mul` / `logDeriv_div` for the pointwise product `f * g`, so the four rewrites here now use the generated `logDeriv_fun_mul` / `logDeriv_fun_div` instead.

Builds locally against master (`lake build Mathlib.Analysis.SpecialFunctions.Gamma.Digamma`), with `lake exe lint-style` clean.

**Comment by owenpkent** [comment]
All three review comments are addressed in 1128e85 (auxiliary lemma made public as HasDerivAt.logDeriv_Gamma, both proofs converted to calc blocks), and the merge conflict from Aug 14 is resolved. CI is green. Ready for another look.

**Comment by SnirBroshi** [comment]
> Each proof is short

Hello! Could you please remove this phrase from the description? The proofs are currently very long.

> Ready for another look.

Could you read the [contribution guide](https://leanprover-community.github.io/contribute/how-to-contribute.html) and then mark this as ready for review?

**Comment by owenpkent** [comment]
Done, thanks: removed the stale "each proof is short" phrasing from the description (the calc-block versions are indeed longer).

-awaiting-author

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 4]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+    rw [show s + ((n + 1 : ℕ) : ℂ) = (s + (n : ℂ)) + 1 by push_cast; ring,
+      digamma_apply_add_one _ hsn, ih, Finset.sum_range_succ]
+    ring
+
+end Complex
+
+open Complex in
+/-- The logarithmic derivative of `Gamma ∘ g` at `s` is `deriv g s * digamma (g s)`.
+Auxiliary lemma used to prove the reflection and duplication formulas below. -/
+theorem HasDerivAt.logDeriv_Gamma {g : ℂ → ℂ} {a s : ℂ} (hg : HasDerivAt g a s)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: you can use `_root_.` to temporarily step outside of a namespace.
```suggestion
/-- If `g` has derivative `a` at `s`, then the logarithmic derivative of `Gamma ∘ g` at `s` is
`a * digamma (g s)`. -/
theorem _root_.HasDerivAt.logDeriv_Gamma {g : ℂ → ℂ} {a s : ℂ} (hg : HasDerivAt g a s)
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 5]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+    (h : ∀ m : ℕ, g s ≠ -(m : ℂ)) :
+    logDeriv (fun z ↦ Gamma (g z)) s = a * digamma (g s) := by
+  rw [show (fun z ↦ Gamma (g z)) = Gamma ∘ g from rfl,
+    logDeriv_comp (differentiableAt_Gamma _ h) hg.differentiableAt, hg.deriv, digamma_def]
+  exact mul_comm _ _
+
+namespace Complex
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 6]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
 theorem meromorphic_digamma : Meromorphic digamma :=
   Meromorphic.Gamma.logDeriv
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: I'd move this below `digamma_apply_add_nat` so that the latter is next to `digamma_apply_add_one`.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 7]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+    calc digamma s - digamma (1 - s)
+        = logDeriv (fun z ↦ Gamma z * Gamma (1 - z)) s := by
+          rw [logDeriv_fun_mul (f := Gamma) (g := fun z ↦ Gamma (1 - z)) s (Gamma_ne_zero hs₀)
+              (Gamma_ne_zero hs₁) (differentiableAt_Gamma s hs₀)
+              ((differentiableAt_Gamma _ hs₁).comp s (by fun_prop)),
+            ((hasDerivAt_id' (x := s)).const_sub 1).logDeriv_Gamma hs₁, ← digamma_def]
+          ring
+      _ = logDeriv (fun z ↦ (Real.pi : ℂ) / sin ((Real.pi : ℂ) * z)) s := by
+          rw [funext Gamma_mul_Gamma_one_sub]
+      _ = -((Real.pi : ℂ) * Complex.cot ((Real.pi : ℂ) * s)) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: with `open scoped Real` at the top of the file, you can use `π`. And the `Complex` namespace is already open.
```suggestion
      _ = -((π : ℂ) * cot ((Real.pi : ℂ) * s)) := by
```
This comments applies to things throughout the file, not just here.

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 8]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+  have key : digamma s + digamma (s + 1 / 2) = 2 * digamma (2 * s) - 2 * Complex.log 2 := by
+    calc digamma s + digamma (s + 1 / 2)
+        = logDeriv (fun z ↦ Gamma z * Gamma (z + 1 / 2)) s := by
+          rw [logDeriv_fun_mul (f := Gamma) (g := fun z ↦ Gamma (z + 1 / 2)) s (Gamma_ne_zero hs)
+              (Gamma_ne_zero hsh) (differentiableAt_Gamma s hs)
+              ((differentiableAt_Gamma _ hsh).comp s (by fun_prop)),
+            ((hasDerivAt_id' (x := s)).add_const (1 / 2)).logDeriv_Gamma hsh, ← digamma_def]
+          ring
+      _ = logDeriv (fun z ↦ Gamma (2 * z) * (2 : ℂ) ^ (1 - 2 * z)
+            * ((Real.sqrt Real.pi : ℝ) : ℂ)) s := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: via `open scope Real`
```suggestion
            * (√π : ℂ)) s := by
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 9]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+/-- **The digamma duplication formula** `ψ(2s) = ½(ψ(s) + ψ(s + ½)) + log 2`, for
+`s, s + ½ ∉ {0, -1, -2, …}`. Proved from Legendre's doubling
+`Complex.Gamma_mul_Gamma_add_half` by taking logarithmic derivatives. -/
+theorem digamma_two_mul {s : ℂ} (hs : ∀ m : ℕ, s ≠ -(m : ℂ))
+    (hsh : ∀ m : ℕ, s + 1 / 2 ≠ -(m : ℂ)) :
+    digamma (2 * s) = (1 / 2) * (digamma s + digamma (s + 1 / 2)) + Complex.log 2 := by
+  have h2s (m : ℕ) : 2 * s ≠ -(m : ℂ) := fun h ↦ by
+    rcases Nat.even_or_odd m with ⟨k, hk⟩ | ⟨k, hk⟩
+    · exact hs k (by subst hk; push_cast at h ⊢; linear_combination h / 2)
+    · exact hsh k (by subst hk; push_cast at h ⊢; linear_combination h / 2)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: I think you should change the condition so that it is only one hypothesis instead of two.
```suggestion
/-- **The digamma duplication formula** `ψ(2s) = ½(ψ(s) + ψ(s + ½)) + log 2`, for
`2s ∉ {0, -1, -2, …}`, which is equivalent to `s` and `s + ½` both avoiding the poles of `ψ`.
Proved from Legendre's doubling `Complex.Gamma_mul_Gamma_add_half` by taking logarithmic
derivatives. -/
theorem digamma_two_mul {s : ℂ} (hs : ∀ m : ℕ, 2 * s ≠ -(m : ℂ)) :
    digamma (2 * s) = (1 / 2) * (digamma s + digamma (s + 1 / 2)) + log 2 := by
  have hs₀ (m : ℕ) : s ≠ -(m : ℂ) := fun h ↦
    hs (2 * m) (by push_cast; linear_combination 2 * h)
  have hs₁ (m : ℕ) : s + 1 / 2 ≠ -(m : ℂ) := fun h ↦
    hs (2 * m + 1) (by push_cast; linear_combination 2 * h)
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 10]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+    rw [logDeriv_apply, hd2.deriv, div_eq_iff hpow]
+    ring
+  -- take logarithmic derivatives of Legendre's formula `Γ(s) Γ(s + 1/2) = Γ(2s) 2^(1-2s) √π`
+  have key : digamma s + digamma (s + 1 / 2) = 2 * digamma (2 * s) - 2 * Complex.log 2 := by
+    calc digamma s + digamma (s + 1 / 2)
+        = logDeriv (fun z ↦ Gamma z * Gamma (z + 1 / 2)) s := by
+          rw [logDeriv_fun_mul (f := Gamma) (g := fun z ↦ Gamma (z + 1 / 2)) s (Gamma_ne_zero hs)
+              (Gamma_ne_zero hsh) (differentiableAt_Gamma s hs)
+              ((differentiableAt_Gamma _ hsh).comp s (by fun_prop)),
+            ((hasDerivAt_id' (x := s)).add_const (1 / 2)).logDeriv_Gamma hsh, ← digamma_def]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]:
```suggestion
          rw [logDeriv_fun_mul (f := Gamma) (g := fun z ↦ Gamma (z + 1 / 2)) s (Gamma_ne_zero hs₀)
              (Gamma_ne_zero hs₁) (differentiableAt_Gamma s hs₀)
              ((differentiableAt_Gamma _ hs₁).comp s (by fun_prop)),
            ((hasDerivAt_id' (x := s)).add_const (1 / 2)).logDeriv_Gamma hs₁, ← digamma_def]
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 11]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+          ring
+      _ = logDeriv (fun z ↦ Gamma (2 * z) * (2 : ℂ) ^ (1 - 2 * z)
+            * ((Real.sqrt Real.pi : ℝ) : ℂ)) s := by
+          rw [funext Gamma_mul_Gamma_add_half]
+      _ = 2 * digamma (2 * s) - 2 * Complex.log 2 := by
+          rw [logDeriv_mul_const s _ hsqrt,
+            logDeriv_fun_mul (f := fun z ↦ Gamma (2 * z)) (g := fun z ↦ (2 : ℂ) ^ (1 - 2 * z)) s
+              (Gamma_ne_zero h2s) hpow ((differentiableAt_Gamma _ h2s).comp s (by fun_prop))
+              hd2.differentiableAt,
+            ((hasDerivAt_id' (x := s)).const_mul 2).logDeriv_Gamma h2s, hcpow]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]:
```suggestion
              (Gamma_ne_zero hs) hpow ((differentiableAt_Gamma _ hs).comp s (by fun_prop))
              hd2.differentiableAt,
            ((hasDerivAt_id' (x := s)).const_mul 2).logDeriv_Gamma hs, hcpow]
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 12]
```diff
@@ -61,4 +67,102 @@ theorem digamma_apply_add_one (s : ℂ) (hs : ∀ m : ℕ, s ≠ - m) :
...
+    digamma (s + n) = digamma s + ∑ k ∈ Finset.range n, (s + k)⁻¹ := by
+  induction n with
+  | zero => simp
+  | succ n ih =>
+    have hsn (m : ℕ) : s + (n : ℂ) ≠ -(m : ℂ) := fun h ↦
+      hs (m + n) (by push_cast at h ⊢; linear_combination h)
+    rw [show s + ((n + 1 : ℕ) : ℂ) = (s + (n : ℂ)) + 1 by push_cast; ring,
+      digamma_apply_add_one _ hsn, ih, Finset.sum_range_succ]
+    ring
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean:82]: This would be nice to have:
```suggestion

open scoped ComplexOrder in
/-- The digamma function at a positive integer, in terms of harmonic numbers. -/
theorem digamma_nat_add_one (n : ℕ) :
    digamma (n + 1) = harmonic n - Real.eulerMascheroniConstant := by
  rw [add_comm _ 1, digamma_apply_add_nat (by grind) n, digamma_one, harmonic]
  push_cast [add_comm (1 : ℂ)]
  ring

```

**Comment by j-loreaux** [comment]
I've made this depend on #42349 because the proof of the digamma reflection formula in that PR was significantly better, and that has been delegated. After that is merged, please merge master and then we can get the remaining results here merged.

**Comment by owenpkent** [comment]
All of today's inline comments are applied in 48e7c9d:

- `HasDerivAt.logDeriv_Gamma` stays inside the namespace via `_root_.`, with your docstring
- `meromorphic_digamma` moved below the recurrences
- `open scoped Real` at the top, with `π` / `√π` and bare `cot` / `log` throughout
- `digamma_two_mul` now takes the single hypothesis on `2 * s`
- added `digamma_nat_add_one` (nice one, thanks) and listed it under Main statements

Build is green locally, `#print axioms` is `[propext, Classical.choice, Quot.sound]` for all five declarations, and `lint-style` passes.

The dependency plan sounds good: once #42349 lands I'll merge master, drop `digamma_reflection` here in favor of `digamma_one_sub`, and keep the recurrence, duplication, and harmonic-number results.

**Comment by owenpkent** [comment]
#42349 is merged, so this PR is unblocked: I've merged master (23deda2), dropped `digamma_reflection` in favor of the better `digamma_one_sub` from that PR, and updated the description accordingly. What remains here: `digamma_apply_add_nat`, `digamma_nat_add_one`, `digamma_two_mul`, and the public helper `HasDerivAt.logDeriv_Gamma`. Builds green locally against master with `lint-style` clean, and `#print axioms` is `[propext, Classical.choice, Quot.sound]` for all four (and for `digamma_one_sub` on the merged base). Ready for another look.

**Comment by owenpkent** [comment]
-awaiting-author

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 13]
```diff
@@ -79,4 +108,52 @@ theorem digamma_one_sub {s : ℂ} (hs : ∀ n : ℤ, s ≠ n) :
...
+  have hs₁ (m : ℕ) : s + 1 / 2 ≠ -(m : ℂ) := fun h ↦
+    hs (2 * m + 1) (by push_cast; linear_combination 2 * h)
+  have hsqrt : (√π : ℂ) ≠ 0 := by
+    simpa using Real.sqrt_ne_zero'.mpr Real.pi_pos
+  have hpow : (2 : ℂ) ^ (1 - 2 * s) ≠ 0 := by simp [cpow_eq_zero_iff]
+  have hd2 := (((hasDerivAt_id' (x := s)).const_mul 2).const_sub 1).const_cpow
+    (Or.inl (by norm_num : (2 : ℂ) ≠ 0))
+  have hcpow : logDeriv (fun z : ℂ ↦ (2 : ℂ) ^ (1 - 2 * z)) s = -2 * log 2 := by
+    rw [logDeriv_apply, hd2.deriv, div_eq_iff hpow]
+    ring
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: I generally prefer to inline things that are only used once. The change to `hd2` is just a style preference (fewer parentheses, makes it easier to for me to parse)
```suggestion
  have hpow : (2 : ℂ) ^ (1 - 2 * s) ≠ 0 := by simp [cpow_eq_zero_iff]
  have hd2 := hasDerivAt_id' s |>.const_mul 2 |>.const_sub 1 |>.const_cpow <|
    .inl (by norm_num : (2 : ℂ) ≠ 0)
```

File: Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean [hunk 14]
```diff
@@ -79,4 +108,52 @@ theorem digamma_one_sub {s : ℂ} (hs : ∀ n : ℤ, s ≠ n) :
...
+            * (√π : ℂ)) s := by
+          rw [funext Gamma_mul_Gamma_add_half]
+      _ = 2 * digamma (2 * s) - 2 * log 2 := by
+          rw [logDeriv_mul_const s _ hsqrt,
+            logDeriv_fun_mul (f := fun z ↦ Gamma (2 * z)) (g := fun z ↦ (2 : ℂ) ^ (1 - 2 * z)) s
+              (Gamma_ne_zero hs) hpow ((differentiableAt_Gamma _ hs).comp s (by fun_prop))
+              hd2.differentiableAt,
+            ((hasDerivAt_id' (x := s)).const_mul 2).logDeriv_Gamma hs, hcpow]
+          ring
+  linear_combination (-1 / 2 : ℂ) * key
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Gamma/Digamma.lean]: This is just style nits and inlining the results from above. Some notes:

1. using `suffices` we can swap the order of the `calc` and the `linear_combination` calls.
2. `hasDerivAt_id'` takes an explicit argument, so no need for `(x := s)`.
3. `fun_prop` can solve some of these goals for you.
4. It's nice to fit terms (or `calc` lines) on one line, when possible, for readability.
```suggestion
  suffices key : digamma s + digamma (s + 1 / 2) = 2 * digamma (2 * s) - 2 * log 2 by
    linear_combination (-1 / 2 : ℂ) * key
  calc
    digamma s + digamma (s + 1 / 2) = logDeriv (fun z ↦ Gamma z * Gamma (z + 1 / 2)) s := by
      rw [logDeriv_fun_mul (g := fun z ↦ Gamma (z + 1 / 2)) s (Gamma_ne_zero hs₀)
        (Gamma_ne_zero hs₁) (by fun_prop) (by fun_prop),
        ((hasDerivAt_id' s).add_const (1 / 2)).logDeriv_Gamma hs₁, ← digamma_def]
      ring
    _ = logDeriv (fun z ↦ Gamma (2 * z) * (2 : ℂ) ^ (1 - 2 * z) * (√π : ℂ)) s := by
      rw [funext Gamma_mul_Gamma_add_half]
    _ = 2 * digamma (2 * s) - 2 * log 2 := by
      rw [logDeriv_mul_const s (√π : ℂ) (by grind [ofReal_eq_zero, Real.pi_pos]),
        logDeriv_fun_mul (f := fun z ↦ Gamma (2 * z)) s
          (Gamma_ne_zero hs) hpow (by fun_prop) (by fun_prop),
        ((hasDerivAt_id' s).const_mul 2).logDeriv_Gamma hs, mul_one, sub_eq_add_neg]
      congr! 1
      rw [logDeriv_apply, hd2.deriv, div_eq_iff hpow]
      ring
```

**Review by j-loreaux — COMMENTED** [review]
very minor changes, then it is ready to be merged (I've just gone ahead and made these since they were minor).
